US04322437
4'-(3-tert.-butylamino-2-hydroxypropoxy)-spiro(cyclohexane-1,2'-indan)-1'-one
7.5 g of a mixture of mainly 4'-(3-chloro-2-hydroxypropoxy)-spiro(cyclohexane-1,2'-indan)-1'-one and of 4'-(2,3-epoxypropoxy)-spiro(cyclohexane-1,2'-indan)-1'-one in 50 ml dioxane and 30 ml tert.-butylamine are heated at 130° for 20 hours in an autoclave, then cooled and partitioned between 2 N tartaric acid and ether. The aqueous phase is made alkaline and extracted with ether. The organic phases are evaporated to yield the title compound in free base form (M.Pt. 87°-88°) which is converted into the hydrogen maleate; M.Pt. 180°-181°, and hydrogen malonate M.Pt. 143°-145°.

reactant | 4'-(3-chloro-2-hydroxypropoxy)-spiro(cyclohexane-1,2'-indan)-1'-one | ClCC(COC1=C2CC3(C(C2=CC=C1)=O)CCCCC3)O | C17H21ClO3
reactant | 4'-(2,3-epoxypropoxy)-spiro(cyclohexane-1,2'-indan)-1'-one | O1C(COC2=C3CC4(C(C3=CC=C2)=O)CCCCC4)C1 | C17H20O3
reactant | tert.-butylamine | 30 ml | C(C)(C)(C)N | C4H11N
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4'-(3-tert.-butylamino-2-hydroxypropoxy)-spiro(cyclohexane-1,2'-indan)-1'-one | C(C)(C)(C)NCC(COC1=C2CC3(C(C2=CC=C1)=O)CCCCC3)O | C21H31NO3
